US05468877
Preparation of 5-(p-Chlorophenyl)-4-[(trifluoromethyl)thio]pyrrole-2-carboxylic acid
A mixture of methyl 5-(p-chlorophenyl)-4-[(trifluoromethyl)thio]pyrrole-2-carboxylate (4.89 g, 0.0146 mol) and sodium hydroxide (1.75 g, 0.0437 mol) in a 2:1 methanol/water solution (150 mL) is warmed to 60° C., stirred for three hours, cooled to room temperature with stirring overnight and concentrated in vacuo to remove most of the methanol. The resulting aqueous solution is treated with 10% hydrochloric acid and a white precipitate forms. Ethyl acetate is added and the organic phase is separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title product as an off-white solid (4.98 g, mp 176°-178° C.) which is identified by 1HNMR spectral analysis.

reactant | methyl 5-(p-chlorophenyl)-4-[(trifluoromethyl)thio]pyrrole-2-carboxylate | 0.0146 mol, 4.89 g | ClC1=CC=C(C=C1)C1=C(C=C(N1)C(=O)OC)SC(F)(F)F | C13H9ClF3NO2S
reactant | sodium hydroxide | 0.0437 mol, 1.75 g | [OH-].[Na+]
solvent | methanol water | 150 mL | CO.O
product | 5-(p-Chlorophenyl)-4-[(trifluoromethyl)thio]pyrrole-2-carboxylic acid | 4.98 g | ClC1=CC=C(C=C1)C1=C(C=C(N1)C(=O)O)SC(F)(F)F | C12H7ClF3NO2S
